US04264774
2-Thiophenesulfonyl Bromide
In a 500 ml Erlenmeyer flask equipped with a magnetic stirrer and a thermometer were placed 200 ml of methanol and 6.80 g (0.20 mol) of 95% hydrazine. This solution wa cooled to 7° C. and 18.26 g (0.10 mol) of 2-thiophenesulfonyl chloride was added portion-wise in such a manner that the temperature did not exceed 15° C. After the addition was complete, the reaction mixture was allowed to warm to room temperature. The methanol was removed in vacuo leaving a mixture of a heavy oil and a fluffy solid. The mixture was treated with water, and the solid dissolved and oil separated. The mixture of oil and water (which contained the hydrazine hydrochloride from the first reaction) was placed in a flask containing 300 ml of chloroform and a magnetic stirrer. Crushed ice was added and to the resulting slurry 64.0 g of bromine was added at such a rate that the reaction temperature remained below 10° C. After the addition was complete and the bromine color had dissipated, the layers were separated. The chloroform layer was dried over anhydrous magnesium sulfate, and the chloroform removed in vacuo leaving a yellow oil which crystallized on addition of hexane. The solid was filtered and dried to give 15.33 g of the title compound as slightly yellow crystals, mp 49°-51° C.

reactant | methanol | 200 ml | CO | CH4O
reactant | hydrazine | 0.20 mol, 6.80 g | NN | H4N2
reactant | 2-thiophenesulfonyl chloride | 0.10 mol, 18.26 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | bromine | 64.0 g | BrBr | Br2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-Thiophenesulfonyl Bromide | 15.33 g | S1C(=CC=C1)S(=O)(=O)Br | C4H3BrO2S2
